US04351839
B. 2-bromomethyl-4-ethyl-2-phenyl-gamma-butyrolactone
To a solution of 19.4 g. (0.19 m) diisopropylamine in 100 ml. of dry tetrahydrofuran is added dropwise 12.3 g. (0.19 m) n-butyl lithium at -75° C. under nitrogen. Stirring is continued for 1/2 hour when a solution of 30 g. (0.16 m) 4-ethyl-2-phenyl-gamma-butyrolactone in 50 ml. tetrahydrofuran is added dropwise in one hour. The resulting mixture is further stirred for 1/2 hour and a mixture of 33 g. (0.19 m) dibromomethane and 34 g. (0.19 m) hexamethylphosphoramide is added dropwise. The reaction temperature is maintained at -75° C. throughout the additions. The reaction mixture is stirred at room temperature overnite. It is then poured into 500 ml. of saturated ammonium chloride solution and extracted with ether. The combined ether extracts are dried over sodium sulfate and filtered. Solvent is removed under vacuum to give 39 g. of an oil which is further purified by bulb-to-bulb vacuum distillation to give 26 g. of pure product.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-ethyl-2-phenyl-gamma-butyrolactone | C(C)C1CC(C(=O)O1)C1=CC=CC=C1 | C12H14O2
reactant | dibromomethane | BrCBr | CH2Br2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromomethyl-4-ethyl-2-phenyl-gamma-butyrolactone | BrCC1(C(=O)OC(C1)CC)C1=CC=CC=C1 | C13H15BrO2
